datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.COC1=C([C:10]#[C:11][N:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])C=CC=C1>>COC1=C([C:10](=[C:11]=[N+:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])[CH:20]([C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)C=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC(C)(C)[C@H]1CC[N+:12]2=[C:11]([N:10]1[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]1)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12"
"CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.ClC1=CC=C([P:10](C2=CC=C(Cl)C=C2)C2=CC=C(Cl)C=C2)C=C1>>CN(C)C1=CC=C(C2C([CH:20](C3=CC=C(N(C)C)C=C3)[P+:10](C3=CC=C(Cl)C=C3)(C3=CC=C(Cl)C=C3)C3=CC=C(Cl)C=C3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10=20;20,21=21"
"C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CCCC[Sn](CCCC)(CCCC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>CCCC[Sn](CCCC)(CCCC)[C:13]1=[O+:14][CH:10]([CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C[Si](C)(C)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>C[Si](C)(C)[C:13]1=[O+:14][CH:10]([Cl:20])[CH:11]=[CH:12]1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([CH:21]=[CH:22][N:23]3C(CC4=CC=CC=C4)C(=O)N(C)C3/C=C/C3=CC=CC=C3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[Si](C)(C)[O:12][C:11](=[CH:10]C)[O:62][Si:63](C)(C)C>>C[Si](C)(C)[O+:12]=[C:11]([CH:10](C)[CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[O:62][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.C[Si](C)(C)CCCC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.C[Si](C)(C)CCCC[CH+:11][CH2:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C2=CC=CC=C2)=[O:64])C=C1.C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F>>C[N-:21]C1=CC=CC=C1.FC(F)(F)[S:20][CH2:10][C:11](C1=CC=CC=C1)=[NH+:12][C:63](C1=CC=CC=C1)=[O:64] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.CC(C)(C)C[CH:11]([H:10])[CH2:62][Sn:63](C)(C)C>>C1=CC=C([C:22](=[CH:21][CH2:20][H:10])[O-:23])C=C1.CC(C)(C)C[CH+:11][CH2:62][Sn:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C[N:12]1[C:11]([B-:82](F)(F)F)=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>C[N+:12]1=[C:11]([B-:82](F)(F)F)[CH:10]([CH:20]2CC3C4C5C2[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21"
"C1=CC2=C(C=C1)[S:62][C:11]1=[CH:10]CCC[N:12]21.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C1=CC2=C(C=C1)[S:62][C:11]1=[N+:12]2CCC[CH:10]1[CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12"
"CN(C)C1=CC=C(/[C:11](=[CH:10]/[S+:61](C)C)[O-:12])C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CN(C)C1=CC=C([C:11]([CH:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[S+:61](C)C)=[O:12])C=C1 10,11=10,20;12=11,12"
